US05122523
32 mg of L-N-[(2R or S)-3-(1-methyltetrazol-5-yl)sulfonyl-2-(1-naphthylmethyl)propionyl]norleucine tert-butyl ester was dissolved in 0.7 ml of dichloromethane. Then, 0.5 ml of TFA was added thereto, and the mixture was reacted at room temperature for one hour. Then, the reaction solution was concentrated under reduced pressure. The syrup thereby obtained was sequentially dissolved in benzene and benzene/n-hexane and then subjected to azeotropic concentration under reduced pressure to obtain a slightly yellow powder. L-N-[(2R or S)-3-(1-methyltetrazol-5-yl)sulfonyl-2-(1-naphthylmethyl)propionyl]norleucine thus obtained was throughly dried under reduced pressure and then dissolved in 0.5 ml of dry DMF. Then, 21 μl of triethylamine and 17 μl of DPPA were sequentially added thereto at -20° C., and the mixture was stirred. Five minutes later, a solution mixture comprising 22 mg of (2RS,4S,5S)-5-amino-2-ethyl-4-hydroxy-7-methyloctanoic acid isobutylamide hydrochloride, 22 μl of triethylamine and 8.5 ml of dry DMF, was added to the reaction solution, and the mixture was stirred at -20° C. for one hour and at 5° C. overnight. The reaction solution thereby obtained was diluted with 20 ml of ethyl acetate and washed sequentially with 10 ml of a 2% sodium hydrogencarbonate aqueous solution and with 10 ml of a saturated sodium chloride aqueous solution. The ethyl acetate layer was separated and dried over anhydrous sodium sulfate. Then, the inorganic salt was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue thereby obtained was purified by silica gel column chromatography (chloroform/methanol=10/1). The eluted fractions containing the desired product were collected and concentrated. The residue was reprecipitated in an ethyl ether/pentane solution to obtain 33 mg of (2S,4S,5 S)-5-{L-N-[(2R or S)-3-(1-methyltetrazol-5-yl)sulfonyl-2-(1-naphthylmethyl)propionyl]norleucil}amino-2-ethyl-4-hydroxy-7-methyloctanoic acid isobutylamide as white solid.

reactant | norleucine tert-butyl ester | C(C)(C)(C)OC([C@@H](N)CCCC)=O | C10H21NO2
reactant | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 0.7 ml | ClCCl | CH2Cl2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | norleucine | N[C@@H](CCCC)C(=O)O | C6H13NO2
